US04732901
3-Bromo-2-(1-octynyl)thiophene
2,3-Dibromothiophene (3.78 g 15.6 mmole) was reacted with 1-octyne (2.57 g 23.4 mmole) using the method given in Example 20. The reaction product was purified by chromatography on silica eluting with hexane to yield 3.70 g (87.2%) of the title compound as a yellow oil bp 0.05 155°, νmax (mull) 3100, 2225, 870, 710; δ(CDCl3), 0.9(3H, t, J=6 Hz), 1.3(8H, m), 2.47(2H, t, J=6 Hz), 6.9(d, 1H, J=9 Hz), 7.13(1H, d, J=9 Hz).

reactant | 2,3-Dibromothiophene | 15.6 mmole, 3.78 g | BrC=1SC=CC1Br | C4H2Br2S
reactant | 1-octyne | 23.4 mmole, 2.57 g | C#CCCCCCC | C8H14
product | 3-Bromo-2-(1-octynyl)thiophene | 3.70 g, 87.2% | BrC1=C(SC=C1)C#CCCCCCC | C12H15BrS
